US04865618
Preparation of 5-(β-chloroethoxycarbonyl)amino-2,4-dimethoxy-3-nitrochlorobenzene
0.05 mole (11.7 g) of 5-amino-2,4-dimethoxy-3-nitrochlorobenzene was dissolved in 50 ml of dioxane. 5 g of calcium carbonate were added and then the temperature was raised to the region of 90° C. 0.05 mole (7.2 g) of β-chloroethyl chloroformate was then introduced with stirring. Upon completion of the addition, stirring was maintained for 30 additional minutes at 90° C. The inorganic salts present in the reaction mixture were removed by filtration while hot. After addition of iced water to the filtrate, the expected product crystallized. The product obtained was thoroughly drained and washed with water. After drying, it was recrystallized from ethanol. It melted at 93° C.

reactant | 5-amino-2,4-dimethoxy-3-nitrochlorobenzene | 0.05 mole, 11.7 g | NC=1C(=C(C(=C(C1)Cl)OC)[N+](=O)[O-])OC | C8H9ClN2O4
reactant | calcium carbonate | 5 g | C([O-])([O-])=O.[Ca+2]
reactant | β-chloroethyl chloroformate | 0.05 mole, 7.2 g | ClC(=O)OCCCl | C3H4Cl2O2
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
product | 5-(β-chloroethoxycarbonyl)amino-2,4-dimethoxy-3-nitrochlorobenzene | ClCCOC(=O)NC=1C(=C(C(=C(C1)Cl)OC)[N+](=O)[O-])OC | C11H12Cl2N2O6
